US06458772B1
a) 4-Methoxybenzyl(S)(+)-2-hydroxypropionate
To a stirred solution of (S)(+)-2 hydroxypropionic acid (9.0 g, 100 mmole) in 100 ml dry DMF was added potassium tert-butoxide (12.34 g, 110 mmole) and the mixture was stirred for one hour at 25° C. 4Methoxybenzyl chloride (18.8 g 120 mmole) was added and the mixture was stirred for six hours at 60° C. The mixture was evaporated under reduced pressure and 250 ml ethyl acatate was added. The organic phase was washed four times with water. The organic phase was dried with sodium sulfate and concentrated in vacuo. Yield: 15.6 g=74%

reactant | (S)(+)-2 hydroxypropionic acid | 100 mmole, 9.0 g | O[C@H](C(=O)O)C | C3H6O3
reactant | potassium tert-butoxide | 110 mmole, 12.34 g | CC(C)([O-])C.[K+]
reactant | 4Methoxybenzyl chloride | 120 mmole, 18.8 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-Methoxybenzyl(S)(+)-2-hydroxypropionate | O[C@H](C(=O)OCC1=CC=C(C=C1)OC)C | C11H14O4
